US06680326B2
a) Preparation of 5,7-dioxo-6,7-dihydro-5H-[2]pyrindine-6-carboxylic acid naphthalen-1-ylamide
In a similar manner to Example 1a, 5,7-dioxo-6,7-dihydro-5H-[2]pyrindine-6-carboxylic acid naphthalen-1-ylamide was obtained starting from 5,7-Dioxo-6,7-dihydro-5H-[2]pyrindine-6-carboxylic acid ethyl ester and naphthalen-1-ylamine. The desired product was obtained as a light brownish powder. ESI−MS: m/z 317 (MH+); 1H-NMR (DMSO-d6): δ7.38-7.67 (5H, m), 7.91 (1H, d, J=8.1 Hz), 8.38 (1H, d, J=8.7 Hz), 8.54 (1H, dd, J=1.1 Hz, 7.6 Hz), 8.57 (1H, d, J=1.1 Hz), 8.75 (1H, d, J=4.9 Hz), 11.61 (1H, brs).

reactant | 5,7-Dioxo-6,7-dihydro-5H-[2]pyrindine-6-carboxylic acid ethyl ester | C(C)OC(=O)C1C(C=2C=CN=CC2C1=O)=O | C11H9NO4
reactant | naphthalen-1-ylamine | C1(=CC=CC2=CC=CC=C12)N | C10H9N
product | 5,7-dioxo-6,7-dihydro-5H-[2]pyrindine-6-carboxylic acid naphthalen-1-ylamide | C1(=CC=CC2=CC=CC=C12)NC(=O)C1C(C=2C=CN=CC2C1=O)=O | C19H12N2O3
